US06803378B2
Step 4: Preparation of (Z)-2,2-Dimethyl-5-(carboxymethylene)-1,3-dioxolan-4-one (V):
The crude (Z)-2,2-dimethyl-5-(tert-butyldimethylsilyloxycarbonylmethylene)-1,3-dioxolan-4-one (72.4 mmol) in tetrahydrofuran (50 ml) was treated at 22° C. with acetic acid (13 ml, 0.227 mmol) followed by 73 ml (73.0 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran. After 1 h at 22° C., the reaction mixture was diluted with ethyl acetate (500 ml), washed with water, brine and dried (anhydrous magnesium sulfate). Evaporation of the solvent under reduced pressure and trituration of the residual solid with toluene (50 ml) gave 7.70 g (62% for 3 steps) of the title Z-isomer as a white crystalline solid. Concentration of the mother liquors yielded another 0.2 g of a 75:25 mixture of Z and E isomers. Z-Isomer; 1H NMR (400 MHz, CDCl3) δ: 1.78 (s, 3), 5.89 (s, 1). E-Isomer: 1H NMR (400 MHz, CDCl3) δ: 1.80 (s, 3), 6.03 (s, 1).

reactant | (Z)-2,2-dimethyl-5-(tert-butyldimethylsilyloxycarbonylmethylene)-1,3-dioxolan-4-one | 72.4 mmol | CC1(O\C(\C(O1)=O)=C/C(=O)O[Si](C)(C)C(C)(C)C)C | C13H22O5Si
reactant | acetic acid | 0.227 mmol, 13 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-2,2-Dimethyl-5-(carboxymethylene)-1,3-dioxolan-4-one | CC1(O\C(\C(O1)=O)=C/C(=O)O)C | C7H8O5
